US07625908B2
N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-cyclobutylacetamide
The procedure described in Example 5 was repeated using N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(cyclobutylamino)ethoxy]quinazolin-4-amine and acetyl chloride to give the title compound in 42% yield; NMR spectrum (DMSO-d6) 1.50-1.65 (m, 2H), 2.01 s, 3H), 2.12-2.21 (m, 4H), 3.94 (t, 2H), 4.28-4.38 (m, 3H), 5.31 (s, 2H), 7.19 (d, 1H), 7.26 (d, 1H), 7.32-7.40 (m, 2H), 7.57-7.62 (m, 2H), 7.69-7.76 (m, 1H), 7.86-7.91 (m, 1H), 7.97 (s, 1H), 8.45 (s, 1H), 8.60 (d, 1H), 9.90 (s, 1H); Mass spectrum MH+ 518.

reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(cyclobutylamino)ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC1CCC1 | C26H26ClN5O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-cyclobutylacetamide | 42% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)C1CCC1 | C28H28ClN5O3
